US05521220
B. 1,1-Diphenyl-1,2-ethanediamine
α,α-Diphenyl-α-aminoacetonitrile (1.0 gm, 0.0048 mol) was dissolved in 6 ml of toluene and was cooled to -20° C. The solution was treated with 19.2 ml (0.0192 mol) of 1 M diisobutylaluminum hydride (DiBal-H) and stirred at -20° C. for 3 hours. The reaction mixture was quenched with 2.0 ml of methanol followed by 50 ml of water. The reaction mixture was acidified to pH 1.0 and the aqueous phase was extracted with ether several times. The remaining aqueous phase was basified to pH 13 with 2N sodium hydroxide solution and extracted with methylene chloride. The organic phase was dried and evaporated to afford 0.946 g (92%) of the desired material as an oil.

reactant | α,α-Diphenyl-α-aminoacetonitrile | 0.0048 mol, 1.0 gm | C1(=CC=CC=C1)C(C#N)(N)C1=CC=CC=C1 | C14H12N2
reactant | diisobutylaluminum hydride | 0.0192 mol, 1 M, 19.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-Diphenyl-1,2-ethanediamine | 0.946 g, 92% | C1(=CC=CC=C1)C(CN)(N)C1=CC=CC=C1 | C14H16N2
